US06686463B2
introducing an acyl group at the N6 position of 1-β-D-arabinofuranosyl adenine with an acylating agent, for example, using benzoyl chloride under conditions suitable for obtaining 1-β-D-arabinofuranosyl-N6-benzoyl adenine,

reactant | 1-β-D-arabinofuranosyl adenine | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C=NC2=NC=NC2=C1N | C10H13N5O4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-β-D-arabinofuranosyl-N6-benzoyl adenine | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C=NC2=NC=NC2=C1NC(C1=CC=CC=C1)=O | C17H17N5O5
